tb_loop_blockA.cir - loop gain of BLOCK A, loaded exactly as ADR-008 wires it
* BLOCK A has NO output isolation resistor: its feedback take-off IS the node
* that drives the 10 kohm stepped attenuator, plus the two 100 ohm isolation
* resistors feeding the fixed outputs. So the wiring capacitance to the
* front-panel attenuator sits DIRECTLY on the loop's output node, with no
* 47 ohm buffer in front of it - the opposite of BLOCK B's situation.
* CWIRE is swept from 0 to 1 nF: 1 nF is far more than a 20 cm harness can
* present, and is here as a margin probe, not as a realistic value.
* Gain relay not fitted (ADR-006): unity gain, RG left open.
* PROVISIONAL - placeholder device models, see tb_loop.cir header.

.include /Users/roberto/EDA/.claude/worktrees/preamp-fase1/spice/preamp/placeholder_devices.lib
.include /Users/roberto/EDA/.claude/worktrees/preamp-fase1/spice/preamp/gain_block_flat.inc

VPP VPLUS 0 DC 15
VMM VMINUS 0 DC -15
VIN IN 0 DC 0

* R_g / relay not fitted on block A
RRG RG 0 1G

RBRK FB NBRK 100
VINJ NBRK G2 DC 0 AC 1

* --- ADR-008 load: attenuator + two isolated fixed outputs ---
CWIRE  OUT 0 1f
RATT   OUT 0 10k
RSEP1  OUT FIX1 100
CFIX1  FIX1 J1 2.2u
RJ1    J1 0 50k
RSEP2  OUT FIX2 100
CFIX2  FIX2 J2 2.2u
RJ2    J2 0 50k

.control
alter r109 = 1G
set units = degrees
foreach cw 1f 47p 100p 220p 470p 1n
  alter cwire = $cw
  ac dec 100 1 100meg
  let T = v(fb)/v(g2)
  let Tdb = db(T)
  let Tph = ph(T)
  meas ac fcross when Tdb=0
  meas ac pmarg find Tph when Tdb=0
  meas ac tdc find Tdb at=10
  echo "BLOCK A  Cwire=$cw"
  print fcross pmarg tdc
  destroy all
end
.endc

.end
